US07973169B2
33) 4-Methyl-N-(4-phenyl-thiazol-2-yl)-benzamide
4-Phenyl-thiazol-2-ylamine (35.2 mg, 0.200 mmol) and 4-methyl-benzoyl chloride (30.9 mg, 0.200 mmol) were dissolved in 1 mL of pyridine. The reaction mixture was stirred at room temperature overnight and then purified by reverse-phase preparative liquid chromatography (20.6 mg, 0.0635 mmol, 31.8%). ESI-MS m/z calc. 294.1, found 295.2 (M+1)+Retention time 3.55 minutes.

reactant | 4-Phenyl-thiazol-2-ylamine | 0.200 mmol, 35.2 mg | C1(=CC=CC=C1)C=1N=C(SC1)N | C9H8N2S
reactant | 4-methyl-benzoyl chloride | 0.200 mmol, 30.9 mg | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-N-(4-phenyl-thiazol-2-yl)-benzamide | CC1=CC=C(C(=O)NC=2SC=C(N2)C2=CC=CC=C2)C=C1 | C17H14N2OS
